US04187216
11.15 g (0.05 mol) of N-benzyloxycarbonyl-L-alanine were dissolved in 75 ml of dry tetrahydrofuran and the mixture was cooled to -10° C. 6.35 ml (0.05 mol) of N-ethylmorpholine were added followed by 6.5 ml of isobutyl chloroformate and the resulting solution was stirred at -10° C. for 20 minutes. 4.65 ml (0.05 mol) of aniline were then added, the mixture was stirred at 0° C. for 1 hour and then left to stand at room temperature for 3 hours. The solvents were removed by evaporation and the residue was dissolved in 200 ml of chloroform. The solution was washed with 150 ml of 1-N hydrochloric acid, 150 ml of water and 150 ml of 5% sodium bicarbonate solution, dried over magnesium sulphate and evaporated to give a white solid. This solid was treated with 300 ml of petroleum ether to yield 11.89 g (80%) of N-benzyloxycarbonyl-L-alanine anilide of melting point 161°-163° C.

reactant | N-benzyloxycarbonyl-L-alanine | 0.05 mol, 11.15 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | N-ethylmorpholine | 0.05 mol, 6.35 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 6.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | aniline | 0.05 mol, 4.65 ml | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-benzyloxycarbonyl-L-alanine anilide | 11.89 g, 80% | C(C1=CC=CC=C1)OC(=O)N(C1=CC=CC=C1)C([C@@H](N)C)=O | C17H18N2O3
